US20010029256A1
2-Ethoxy-3-(4-[2-(2-methyl-9,10-dihydro-4H-1-oxa-3-aza-benzo[f]azulen-4-yloxy)-ethoxy]-phenyl)-propionic acid ethyl ester
Under a nitrogen atmosphere, 2-(2-methyl-9,10-dihydro-4H-1-oxa-3-aza-benzo[f]azulen-4-yloxy)-ethanol (400 mg, 1.6 mmol), tributylphosphine (480 mg, 2.4 mmol) and 2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (380 mg, 1.6 mmol) were successively dissolved in dry benzene (10 mL). Solid azodicarboxylic dipiperidine (ADDP) (480 mg, 2.4 mmol) was added under stirring at 0° C. to the solution. After 10 min, the reaction mixture was brought to room temperature and, the stirring was continued for 16 h. The mixture was added water and the product extracted with ethyl acetate. The combined organic phases was dried (MgSO4), and concentrated in vacuo. The residue was purified chromatography eluting with petroleum ether/ethyl acetate (1:1) to give 300 mg (40%) of the title compound: 1H NMR (300 MHz, CDCl3) δ1.15 (t, 3H). 1.20 (t, 3H), 22.38 (s, 3H), 2.60-2.85 (m, 2H), 2.90-3.05 (m, 3H), 3.25-3.38 (m, 1H), 3.52-3.65 (m, 1H), 3.65-3.75 (m, 1H). 3.75-3.90 (m, 2H), 3.95 (t, 1H), 4.05 (t, 2H), 4.15 (q, 2H), 5.25 (s, 1H), 6.75 (d, 2H), 7.10 (d, 2H), 7.13-7.30 (m, 4H).

reactant | 2-(2-methyl-9,10-dihydro-4H-1-oxa-3-aza-benzo[f]azulen-4-yloxy)-ethanol | 1.6 mmol, 400 mg | CC=1OC=2CCC3=C(C(C2N1)OCCO)C=CC=C3 | C15H17NO3
reactant | tributylphosphine | 2.4 mmol, 480 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 1.6 mmol, 380 mg | C(C)OC(C(CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | ADDP | 2.4 mmol, 480 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-Ethoxy-3-(4-[2-(2-methyl-9,10-dihydro-4H-1-oxa-3-aza-benzo[f]azulen-4-yloxy)-ethoxy]-phenyl)-propionic acid ethyl ester | 300 mg, 40% | C(C)OC(C(CC1=CC=C(C=C1)OCCOC1C=2N=C(OC2CCC2=C1C=CC=C2)C)OCC)=O | C28H33NO6
